US05580893
N-(2-Nitroxyethyl)-2-phenoxy-3-methylbutanamide (Exemplified compound No. 46)
Following a similar treatment to that in Example 2 and using 0.47 g of 2-phenoxy-3-methylbutyric acid and 0.40 g of 2-nitroxyethylamine nitrate, 0.46 g of the title compound was obtained as colorless powdery crystals (solvent for recrystallization; diisopropyl ether).

reactant | 2-phenoxy-3-methylbutyric acid | 0.47 g | O(C1=CC=CC=C1)C(C(=O)O)C(C)C | C11H14O3
reactant | 2-nitroxyethylamine nitrate | 0.40 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-phenoxy-3-methylbutanamide | 0.46 g | O([N+](=O)[O-])CCNC(C(C(C)C)OC1=CC=CC=C1)=O | C13H18N2O5
